US06437124B1
A mixture of hexaethylene glycol (Aldrich, 100 g) and benzyl bromide (Aldrich, 12 g) in aqueous sodium hydroxide (50% (w/w), 80 ml) was stirred at 100° C. (oil bath) under nitrogen for 2 h. The reaction mixture was then cooled to ambient temperature, diluted with water to a total volume of 500 ml, and extracted with diethyl ether (200 ml) to remove dibenzylated product. Sodium chloride (100 g) was added to the aqueous layer, which was extracted further with diethyl ether (6×100 ml). These ether extracts were combined, dried (sodium sulfate), and concentrated to give hexaethylene glycol monobenzyl ether as an oil (25 g, 20% based on glycol), 1H-NMR (CDCl3) δ: 7.30 (m, 5, 5 phenyl CH), 4.53 (s, 2, benzyl CH2), 3.69-3.54 (m, 22, 11 OCH2), 3.06 (br s, 3, OH and CH2O).

reactant | hexaethylene glycol | 100 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | benzyl bromide | 12 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | sodium hydroxide | 80 ml | [OH-].[Na+]
solvent | water | O | H2O
product | hexaethylene glycol monobenzyl ether | C(C1=CC=CC=C1)OCCOCCOCCOCCOCCOCCO | C19H32O7
